US04570007
A solution of 9.36 g of 2-azido-1-(2,2,-dimethyl-1,3-dioxolan-4-yl)ethanol in 150 ml of methanol is combined with 900 mg of palladium/charcoal catalyst (10%). The hydrogenation is conducted for 1 hour under normal pressure. The mixture is then filtered off from the catalyst and washed with methanol. The combined solutions are concentrated to dryness under vacuum. The remaining oil is crystallized from ethanol/ether, thus obtaining 6.29 g (78% of theory) of 2-amino-1-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol in white needles, mp 94°-96° C.

reactant | 2-azido-1-(2,2,-dimethyl-1,3-dioxolan-4-yl)ethanol | 9.36 g | N(=[N+]=[N-])CC(O)C1OC(OC1)(C)C | C7H13N3O3
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium/charcoal | 900 mg | [Pd] | Pd
product | 2-amino-1-(2,2-dimethyl-1,3-dioxolan-4-yl)ethanol | 6.29 g, 78% | NCC(O)C1OC(OC1)(C)C | C7H15NO3
